US05096909
2,3:5,6-Di-O-isopropylidene-D-mannono-1,4-lactone (11)
A solution of 2,3:5,6-di-O-isopropylidene-D-mannofuranose (diacetone mannose) (20 g, 76.9 mmol) in dichloromethane (100 ml) was added to a solution of pyridinium chlorochromate (33.2 g, 2.0 equiv) and dry powdered molecular sieve (40 g) in dichloromethane (300 ml) at 0° C. under nitrogen. The reaction mixture was stirred at room temperature for 30 min [when TLC (ether:hexane, 2:1) showed no starting material (Rf 0.36) and one major product (Rf 0.24)], diluted with ether (400 ml) and filtered through a silica plug. The silica plug was washed with ether and the filtrates were combined and the solvents removed to give, after recrystallization from ether, 2,3:5,6-di-O-isopropylidene-D-mannono-1,4-lactone (11), (18.0 g, 90%), m.p. 125°-126° C. [lit. m.p. 125°-125° C.; Ohle et al., Chem. Ber. 58, 2590 (1925); Goodyear and Haworth, J. Chem. Soc. 1927, 3136⟧

reactant | 2,3:5,6-di-O-isopropylidene-D-mannofuranose | 76.9 mmol, 20 g | CC1(OC[C@@H](O1)[C@@H]2[C@H]3[C@@H](C(O2)O)OC(O3)(C)C)C | C12H20O6
reactant | pyridinium chlorochromate | 33.2 g, 2.0 equiv | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,3:5,6-Di-O-isopropylidene-D-mannono-1,4-lactone | CC1(OC[C@@H](O1)[C@@H]2[C@H]3[C@@H](C(=O)O2)OC(O3)(C)C)C | C12H18O6
